US08957068B2
A solution of (S)-4-Isopropyl-3-[2-((S)-1-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-oxazolidin-2-one (20 mg, 0.060 mmol) in THF (2 mL) was added cyclobutanone (10 mg, 0.17 mmol) and sodium triacetoxyborohydride (20 mg, 0.09 mmol). The reaction was stirred at room temperature for 18 hours. The solvent is then removed under vacuum. The crude material was then purified using reverse phase C18 ODB column water-acetonitrile 0.1% TFA modifier to give (S)-4-Isopropyl-3-{2-[(S)-1-(1-isopropyl-piperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-oxazolidin-2-one (20 mg) in 62% yield.

reactant | (S)-4-Isopropyl-3-[2-((S)-1-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-oxazolidin-2-one | 0.060 mmol, 20 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1CCNCC1 | C17H27N5O2
reactant | cyclobutanone | 0.17 mmol, 10 mg | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.09 mmol, 20 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-4-Isopropyl-3-{2-[(S)-1-(1-isopropyl-piperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-oxazolidin-2-one | 20 mg, 62% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1CCN(CC1)C(C)C | C20H33N5O2
